US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Fmoc-L-serineamide
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride (1,007 mg, 2.65 mmols), 1,105 mg of Fmoc-L-Ser(OtBu)OH, 1,370 mg of a BOP reagent and 618 mg of HOBt.H2O were dissolved in 50 ml of acetonitrile, and 0.8 ml of triethylamine were added thereto. The mixture was reacted at 60° C. for 42 hours. One-hundred milliliters of water and a small amount of sodium hydrogencarbonate were added thereto, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The product was purified using a silica-gel column (eluent, mixture of ethyl acetate and hexane at a ratio of 2:3), and then concentrated to produce 1,486 mg (2.14 mmols) of the final product in a yield of 81%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride | 2.65 mmols, 1,007 mg | Cl.NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC
reactant | Fmoc-L-Ser(OtBu)OH | 1,105 mg | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H25NO5
reactant | BOP reagent | 1,370 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 618 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | One-hundred milliliters | O | H2O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Fmoc-L-serineamide | 2.14 mmols, 1,486 mg, yield of 81% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CO)C(=O)N | InChI=1S/C19H20N2O4.C18H18N2O4/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;19-17(22)16(9-21)20-18(23)24-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15/h5-10H,21H2,1-4H3;1-8,15-16,21H,9-10H2,(H2,19,22)(H,20,23)/b14-7-;/t;16-/m.0/s1
